US03971791
Boiling a solution of 13.2 g of 2-nitrobenzylideneacetoacetic acid ethyl ester and 7.2 g of amidinoacetic acid isopropyl ester in 100 ml of ethanol for 6 hours yields 2-amino-6-methyl-4-(2-nitrophenyl)-1,4-dihyropyridine-3,5-dicarboxylic acid 3-isopropyl ester 5-ethyl ester of melting point 139°C (isopropanol). Yield: 39% of theory.

reactant | 2-nitrobenzylideneacetoacetic acid ethyl ester | 13.2 g | C(C)OC(CC(=O)C=CC1=C(C=CC=C1)[N+](=O)[O-])=O | C13H13NO5
reactant | amidinoacetic acid isopropyl ester | 7.2 g | C(C)(C)OC(CC(N)=N)=O | C6H12N2O2
reactant | isopropanol | C(C)(C)O | C3H8O
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 2-amino-6-methyl-4-(2-nitrophenyl)-1,4-dihyropyridine-3,5-dicarboxylic acid 3-isopropyl ester 5-ethyl ester | Yield: 39% | C(C)OC(=O)C=1C(C(=C(NC1C)N)C(=O)OC(C)C)C1=C(C=CC=C1)[N+](=O)[O-] | C19H23N3O6
